US07294644B2
(S)-5-(5-Fluoro-2-methoxy-phenyl)-2-methyl-1-phenethyl-1H-pyrrole-3-carboxylic acid sec-butylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(5-fluoro-2-methoxy-phenyl)-ethanone as compound of formula S, phenethylamine as R3—(CH2)m—NH2 and (S)-sec-butylamine as R1R2NH, MS (ISP) 409.4 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(5-fluoro-2-methoxy-phenyl)-ethanone | BrCC(=O)C1=C(C=CC(=C1)F)OC | C9H8BrFO2
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
reactant | (S)-sec-butylamine | [C@H](C)(CC)N | C4H11N
product | (S)-5-(5-Fluoro-2-methoxy-phenyl)-2-methyl-1-phenethyl-1H-pyrrole-3-carboxylic acid sec-butylamide | [C@H](C)(CC)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)F)OC)CCC1=CC=CC=C1)C | C25H29FN2O2
